US05750531
Step 1: 4-(1-Methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)-2-chloropyrimidine
A mixture solution of 2,4-dichloropyrimidine(3.0 g, 20 mmol), 1-methyl-1,2,3,4-tetrahydroisoquinoline(3.3 g, 22 mmol), triethylamine(3.4 ml, 24.4 mmol) and N,N-dimethyl formamide(20 ml) was stirred for 5 hours, diluted with dichloromethane, washed with water several times. The dichloromethane layer was separated, dried over anhydrous sodium sulfate and then concentrated under a reduced pressure. The resulting residue was crystallized by silica gel column chromatography to give 1.5 g of the titled compound. (Yield: 28.9%)

reactant | 2,4-dichloropyrimidine | 20 mmol, 3.0 g | ClC1=NC=CC(=N1)Cl | C4H2Cl2N2
reactant | 1-methyl-1,2,3,4-tetrahydroisoquinoline | 22 mmol, 3.3 g | CC1NCCC2=CC=CC=C12 | C10H13N
reactant | triethylamine | 24.4 mmol, 3.4 ml | C(C)N(CC)CC | C6H15N
reactant | N,N-dimethyl formamide | 20 ml | CN(C=O)C | C3H7NO
solvent | dichloromethane | ClCCl | CH2Cl2
product | 4-(1-Methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)-2-chloropyrimidine | 1.5 g, Yield: 28.9% | CC1N(CCC2=CC=CC=C12)C1=NC(=NC=C1)Cl | C14H14ClN3
